US07432260B2
5-Acetyl-3,4-dimethyl-3H-thiazol-2-one (4.64 g, 27.10 mmol) and dimethylformamide dimethyl acetal (8.4 mL, 59.62 mmol) were mixed in a dry, argon-flushed flask, and heated at 100° C. for 3 h. The mixture was cooled, producing some precipitation, which was enhanced by the addition of an equal volume of Et2O. The resulting orange solid was filtered and washed with Et2O to give 2.73g of 5-(3-dimethylamino-acryloyl)-3,4-dimethyl-3H-thiazol-2-one. 1H-NMR (d6-DMSO): δ 2.52 (s, 3H), 2.82 (bs, 3H), 3.11 (bs, 3H), 3.22 (s, 3H), 5.10 (d, 1H, J=12.2 Hz), 7.61 (d, 1H, J=11.7 Hz). IR (ATR): 1669 and 1630 cm−1 (CO str).

reactant | 5-Acetyl-3,4-dimethyl-3H-thiazol-2-one | 27.10 mmol, 4.64 g | C(C)(=O)C1=C(N(C(S1)=O)C)C | C7H9NO2S
reactant | dimethylformamide dimethyl acetal | 59.62 mmol, 8.4 mL | COC(N(C)C)OC | C5H13NO2
product | 5-(3-dimethylamino-acryloyl)-3,4-dimethyl-3H-thiazol-2-one | 2.73g | CN(C=CC(=O)C1=C(N(C(S1)=O)C)C)C | C10H14N2O2S
